US07812017B2
6-Fluoro-5-hydroxy-1-(phenylsulfonyl)-1H-indole-4-carbaldehyde
A solution of 6-fluoro-1-(phenylsulfonyl)-1H-indol-5-ol (200 mg, 687 μmol; Intermediate 95) in MeOH (2.14 mL) was treated with 2M NaOH (860 μL) and formaldehyde (2 mL of a 37 wt. % solution in H2O, 26.8 mmol) and heated in an Emrys optimizer (MW) at 120° C. for 5 min. The solvent was removed in vacuo, the residue taken up with H2O and 1M HCl (pH 1), extracted with EtOAc (3×), washed with sat. NaHCO3, brine, dried (Na2SO4) and the solvent removed in vacuo to yield a brownish syrup (265 mg), which was directly used in the oxidation step. A solution of crude 6-fluoro-4-(hydroxymethyl)-1-(phenylsulfonyl)-1H-indol-5-ol (858 μmol) in CH2Cl2/MeOH (4.5+0.1 mL) was treated with MnO2 (1.12 g, 12.9 mmol) and stirred at rt for 30 min. The reaction mixture was filtrated over a plug of SiO2 and it was washed with CH2Cl2 (40 mL) to give the title compound as yellow solid (72 mg). This material was directly used in the next steps.

reactant | 6-fluoro-4-(hydroxymethyl)-1-(phenylsulfonyl)-1H-indol-5-ol | 858 μmol | FC1=C(C(=C2C=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1)CO)O | C15H12FNO4S
solvent | CH2Cl2 MeOH | 0.1 mL | C(Cl)Cl.CO
catalyst | MnO2 | 12.9 mmol, 1.12 g | O=[Mn]=O
product | 6-Fluoro-5-hydroxy-1-(phenylsulfonyl)-1H-indole-4-carbaldehyde | 72 mg | FC=1C(=C(C=2C=CN(C2C1)S(=O)(=O)C1=CC=CC=C1)C=O)O | C15H10FNO4S
